US05559230
To a solution of 5-(N-methyl-N-[3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propyl]amino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.55 g) in ethanol (10 ml) is added pyridinium p-toluenesulfonate (0.03 g) and the mixture is heated at 60° C. overnight. After the mixture is refluxed for more 2 hours, water and pyridinium p-toluenesulfonate (0.03 g) are added thereto. The mixture is refluxed for 4 hours. The reaction solution is concentrated and to the resulting residue is added dichloromethane. The mixture is basified with aqueous sodium hydrogen carbonate solution and extracted three times with dichloromethane. The extract is washed with saturated saline solution and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=30 :1) to give 5-IN-methyl-N-(3-hydroxypropyl)amino]-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.26 g) as colorless amorphous.

reactant | 5-(N-methyl-N-[3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propyl]amino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.55 g | CN(CCCOC1OCCCC1)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C34H41N3O4
reactant | pyridinium p-toluenesulfonate | 0.03 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
reactant | pyridinium p-toluenesulfonate | 0.03 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.26 g | CC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C25H24N2O2
